US04929622
To a stirred solution of 0.50 g of cyanogen bromide and 20 ml of chloroform was added, at room temperature with stirring, a solution of 1.0 g of 1,2,3,4,5,6-hexahydro-3,6,12-trimethyl-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine and 40 ml of chloroform. The mixture was heated at reflux for 2.6 hr, under nitrogen, and then cooled to room temperature. Dilute aqueous sodium bicarbonate solution was added and the layers were separated. The organic layer was washed with sodium bicarbonate solution. The combined aqueous layers were back extracted with ether, and the combined organic layers were washed with brine, dried over anhydrous potassium carbonate and filtered. The fitrate was concentrated. The residue was purified by flash chromatography (silica gel, 2% triethylamine/ether) to afford 0.73 g (70%) of 3-cyano-6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine, which was combined with 0.39 g of the product from a previous reaction.

reactant | cyanogen bromide | 0.50 g | N#CBr | CBrN
reactant | 1,2,3,4,5,6-hexahydro-3,6,12-trimethyl-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine | 1.0 g | CN1C2CC3=C1CCC1=C3C=CCN=CC1(C2C)C | C17H22N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-cyano-6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine | 0.73 g, 70% | C(#N)N1C2CC3=C1CCC1=C3C=CCN=CC1(C2C)C | C17H19N3
